### PR TITLE
feat: cuboid conjectures

### LINKED ISSUE #1785: Wikipedia: Cuboid conjecture 1
### What is the conjecture
For any two positive coprime integer numbers $a \neq u$ the eighth degree polynomial

$$
P_{au}(t) = t^8 + 6(u^2-a^2)t^6 + (a^4-4a^2u^2+u^4)t^4 - 6a^2u^2(u^2-a^2)t^2 + u^4a^4
$$

is irreducible over the ring of integers $\mathbb Z$.

* https://en.wikipedia.org/wiki/Euler_brick#Cuboid_conjectures

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-12

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by felixpernegger**
Closes #1785.
Unfortunately, the conjectures are not very readable in Lean. 
I double checked the coefficients and they should be correct.

If someone knows how to get rid of the ```(R := ℤ)```, this would be nice.

Finally, it is unclear if for the third conjecture the author (source is: https://matem.anrb.ru/sites/default/files/files/vupe27/Sharipov.pdf) means "pairwise coprime" or "coprime" (i.e. there is no prime dividing all three). I think it is the latter, but I could be wrong.

### CODE REVIEW

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 1]
```diff
@@ -68,4 +69,63 @@ theorem n_dim_euler_brick_existence :
...
+
+open Polynomial
+
+/- **Cuboid conjectures**:
+The three Cuboid conjectures ask if certain families of polynomials are always irreducible.
+If all hold, this implies the nonexistence of a perfect Euler brick.
+-/
+
+def CuboidOneFor (a b : ℕ) : Prop :=
+  Irreducible (X (R := ℤ) ^ 8 + 6 * (a ^ 2 - b ^ 2) * (X (R := ℤ) ^ 6)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  Irreducible (R := ℤ[X]) (X ^ 8 + 6 * (a ^ 2 - b ^ 2) * (X ^ 6)
```
maybe instead? Same below

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 2]
```diff
@@ -68,4 +69,63 @@ theorem n_dim_euler_brick_existence :
...
+    + (b ^ 4 - 4 * a ^ 2 * b ^ 2 + a ^ 4) * X (R := ℤ) ^ 4
+    - 6 * a ^ 2 * b ^ 2 * (a ^ 2 - b ^2) * X (R := ℤ) ^ 4 + a ^ 4 * b ^ 4)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
    - 6 * a ^ 2 * b ^ 2 * (a ^ 2 - b ^ 2) * X (R := ℤ) ^ 4 + a ^ 4 * b ^ 4)
```

**Comment by YaelDillies** [comment]
Can you make sure all defs have docstrings?

File: FormalConjectures/Wikipedia/EulerBrick.lean (hunk 1 above)
Comment (felixpernegger) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: Thanks, this is much nicer

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: Hmm, if you do that, the the coercions from N to Z aren't done automatically anymore

Comment (YaelDillies) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: Why are a and b natural numbers in the first place?

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: otherwise we need extra condition a =/= -b etc I think

Comment (YaelDillies) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: You can keep a and b natural numbers in `CuboidOne`

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: I get
failed to synthesize
  HAdd ℕ ℕ ℤ[X]
  
when I apply your suggestion.

I think maybe we just keep it as it is?

Comment (YaelDillies) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: I don't understand how you could have gotten this error. Also you should be writing `C a` instead of `a` when dealing with polynomials

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: me neither but that doesnt really change the fact :/
image

File: FormalConjectures/Wikipedia/CarmichaelTotient.lean [hunk 3]
```diff
@@ -0,0 +1,65 @@
+/-
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/CarmichaelTotient.lean:1]: I think this file isn't supposed to be here?

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/CarmichaelTotient.lean:1]: thanks once again......

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 4]
```diff
@@ -68,4 +69,73 @@ theorem n_dim_euler_brick_existence :
     answer(sorry) ↔ ∀ n > 3, ∃ sides : Fin n → ℕ+, IsEulerHyperBrick n sides := by
   sorry
 
+section Cuboid
+
+open Polynomial
+
+/- **Cuboid conjectures**:
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
/-! **Cuboid conjectures**:
```

File: FormalConjectures/Wikipedia/EulerBrick.lean (hunk 1 above)
Comment (YaelDillies) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: This works:
```
def CuboidOneFor (a b : ℤ) : Prop :=
  Irreducible (X ^ 8 + C (6 * (a ^ 2 - b ^ 2)) * X ^ 6
    + C (b ^ 4 - 4 * a ^ 2 * b ^ 2 + a ^ 4) * X ^ 4
    - C (6 * a ^ 2 * b ^ 2 * (a ^ 2 - b ^ 2)) * X ^ 2 + C (a ^ 4 * b ^ 4))
```

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/EulerBrick.lean]: Thank you very much!!

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 5]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
 
 /--
 Is there an Euler brick in $4$-dimensional space?
 -/
 @[category research open, AMS 11]
 theorem four_dim_euler_brick_existence :
-    answer(sorry) ↔ ∃ sides : Fin 4 → ℕ+, IsEulerHyperBrick 4 sides:= by
-  sorry
+answer(sorry) ↔ ∃ sides : Fin 4 → ℕ+, IsEulerHyperBrick 4 sides:= by
+sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  sorry
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 6]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
 
 /--
 Is there an Euler brick in $n$-dimensional space for any $n > 3$?
 -/
 @[category research open, AMS 11]
 theorem n_dim_euler_brick_existence :
-    answer(sorry) ↔ ∀ n > 3, ∃ sides : Fin n → ℕ+, IsEulerHyperBrick n sides := by
+answer(sorry) ↔ ∀ n > 3, ∃ sides : Fin n → ℕ+, IsEulerHyperBrick n sides := by
+sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  sorry
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 7]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
 
 /--
 Is there a perfect Euler brick?
 -/
 @[category research open, AMS 11]
 theorem perfect_euler_brick_existence :
-    answer(sorry) ↔ ∃ a b c : ℕ+, IsPerfectCuboid a b c := by
-  sorry
+answer(sorry) ↔ ∃ a b c : ℕ+, IsPerfectCuboid a b c := by
+sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  sorry
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 8]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
 An **Euler brick** is a rectangular cuboid where all edges and face diagonals have integer lengths.
 -/
 def IsEulerBrick (a b c : ℕ+) : Prop :=
-  IsSquare (a^2 + b^2) ∧ IsSquare (a^2 + c^2) ∧ IsSquare (b^2 + c^2)
+IsSquare (a^2 + b^2) ∧ IsSquare (a^2 + c^2) ∧ IsSquare (b^2 + c^2)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  IsSquare (a^2 + b^2) ∧ IsSquare (a^2 + c^2) ∧ IsSquare (b^2 + c^2)
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 9]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
 
 /--
 A **perfect cuboid** is an Euler brick with an integer space diagonal.
 -/
 def IsPerfectCuboid (a b c : ℕ+) : Prop :=
-  IsEulerBrick a b c ∧ IsSquare (a^2 + b^2 + c^2)
+IsEulerBrick a b c ∧ IsSquare (a^2 + b^2 + c^2)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  IsEulerBrick a b c ∧ IsSquare (a^2 + b^2 + c^2)
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 10]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
 
 /--
 Generalization of an Euler brick to $n$-dimensional space.
 -/
 def IsEulerHyperBrick (n : ℕ) (sides : Fin n → ℕ+) : Prop :=
-  Pairwise fun i j ↦ IsSquare ((sides i)^2 + (sides j)^2)
+Pairwise fun i j ↦ IsSquare ((sides i)^2 + (sides j)^2)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
  Pairwise fun i j ↦ IsSquare ((sides i)^2 + (sides j)^2)
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 11]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
 
 /--
 Is there a perfect Euler brick?
 -/
 @[category research open, AMS 11]
 theorem perfect_euler_brick_existence :
-    answer(sorry) ↔ ∃ a b c : ℕ+, IsPerfectCuboid a b c := by
-  sorry
+answer(sorry) ↔ ∃ a b c : ℕ+, IsPerfectCuboid a b c := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
    answer(sorry) ↔ ∃ a b c : ℕ+, IsPerfectCuboid a b c := by
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 12]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
+sorry
 
 /--
 Is there an Euler brick in $4$-dimensional space?
 -/
 @[category research open, AMS 11]
 theorem four_dim_euler_brick_existence :
-    answer(sorry) ↔ ∃ sides : Fin 4 → ℕ+, IsEulerHyperBrick 4 sides:= by
-  sorry
+answer(sorry) ↔ ∃ sides : Fin 4 → ℕ+, IsEulerHyperBrick 4 sides:= by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
    answer(sorry) ↔ ∃ sides : Fin 4 → ℕ+, IsEulerHyperBrick 4 sides:= by
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 13]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
+    + C (b ^ 4 - 4 * a ^ 2 * b ^ 2 + a ^ 4) * X ^ 4
+    - C (6 * a ^ 2 * b ^ 2 * (a ^ 2 - b ^ 2)) * X ^ 2 + C (a ^ 4 * b ^ 4))
+
+/-- *First Cuboid conjecture*: For all positive coprime integers $a$, $b$ with $a ≠ b$,
+the polynomial of the first Cuboid polynomial is irreducible. -/
+def CuboidOne : Prop := ∀ ⦃a b : ℤ⦄, gcd a b = 1 → 0 < a → 0 < b → a ≠ b → CuboidOneFor a b
+
+/-- The first Cuboid conjecture -/
+@[category research open, AMS 12]
+theorem cuboidOne : CuboidOne := by sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
theorem cuboidOne : CuboidOne := by 
  sorry
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 14]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
+    * X ^ 4 - C (a ^ 6 * b ^ 6 * (b ^ 2 + 2 * a ^ 2) * (-2 * b ^ 2 + 3 * a ^ 2))
+    * X ^ 2 - C (b ^ 10 * a ^ 10))
+
+/-- *Second Cuboid conjecture*: For all positive coprime integers $a$, $b$ with $a ≠ b$,
+the polynomial of the second Cuboid polynomial is irreducible. -/
+def CuboidTwo : Prop := ∀ ⦃a b : ℕ⦄, a.Coprime b → 0 < a → 0 < b → a ≠ b → CuboidTwoFor a b
+
+/-- The second Cuboid conjecture -/
+@[category research open, AMS 12]
+theorem cuboidTwo : CuboidTwo := by sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
theorem cuboidTwo : CuboidTwo := by 
  sorry
```

File: FormalConjectures/Wikipedia/EulerBrick.lean [hunk 15]
```diff
@@ -30,42 +30,112 @@ namespace EulerBrick
...
+
+/-- *Third Cuboid conjecture*:
+For all positive, pairwise different coprime integers $a, b, c$ with $b * c ≠ a ^ 2$
+and $a * c ≠ b ^ 2$, the polynomial of the third Cuboid polynomial is irreducible. -/
+def CuboidThree : Prop := ∀ ⦃a b c : ℤ⦄, gcd a (gcd b c) = 1 → 0 < a → 0 < b →
+  0 < c → a ≠ b → b ≠ c → c ≠ a → b * c ≠ a ^ 2 → a * c ≠ b ^ 2 → CuboidThreeFor a b c
+
+/-- The third Cuboid conjecture -/
+@[category research open, AMS 12]
+theorem cuboidThree : CuboidThree := by sorry
```
Comment (mo271) [inline FormalConjectures/Wikipedia/EulerBrick.lean]:
```suggestion
theorem cuboidThree : CuboidThree := by 
  sorry
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, only minor editing nits

**Review by mo271 — APPROVED** [review]

**Comment by mo271** [comment]
Thanks again!
